US08278338B2
2-Dimethylaminomethyl-5-fluoro-indan-1-one
2.8 g of 2-dimethylaminomethyl-5-fluoro-indan-1-one hydrochloride were dissolved in water; the solution was adjusted to pH 12 with 32% sodium hydroxide solution, while cooling with ice, and extracted three times with dichloromethane, and the combined organic phases were dried over magnesium sulfate, filtered and concentrated in vacuo.

reactant | 2-dimethylaminomethyl-5-fluoro-indan-1-one hydrochloride | 2.8 g | Cl.CN(C)CC1C(C2=CC=C(C=C2C1)F)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Dimethylaminomethyl-5-fluoro-indan-1-one | CN(C)CC1C(C2=CC=C(C=C2C1)F)=O | C12H14FNO
